US06579981B1
To a solution of N2-monomethoxytrityl-9-(4-hydroxy-3-hydroxymethylbut-1-yl)guanine (0.47 g, 0.9 mmol) in pyridine (4.5 ml) was added pivalyl chloride (0.55 ml, 4.5 mmol) and the solution was stirred for 45 minutes. The mixture was precipitated in water (45 ml) and the resulting precipitate was stirred in 80% acetic acid (10 ml) at 80° for 20 minutes. The solvent was removed and the residue was purified by column chromatography on silica gel eluting with chloroform-methanol (10:1) to afford 9-(4-pivalyloxy-3-pivalyloxymethylbut-1-yl)guanine (0.22 g, 58%), m.p. 225-237° C.; νmax (KBr) 3430, 2980, 1730, 1690, and 1620 cm−1; δH [(CD3)2SO] 1.11 (18H, s, 2×C(CH3)3), 1.81 (2H, q, J 6.8 Hz, 2′-H), 1.93 (1H, m, 3′-H), 4.0-4.1 (6H, m, 1′-H and 2×4′-H), 6.38 (2H, s, 2-NH2), 7.69 (1H, s, 8-H), and 10.58 (1H, br.s, 1-H); (Found: C, 56.58; H, 7.26; N, 16.14%; C20H31N5O5 requires: C, 56.99; H, 7.41; N, 16.62%).

reactant | N2-monomethoxytrityl-9-(4-hydroxy-3-hydroxymethylbut-1-yl)guanine | 0.9 mmol, 0.47 g | CON(C=1NC(C=2N=CN(C2N1)CCC(CO)CO)=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C30H31N5O4
reactant | pivalyl chloride | 4.5 mmol, 0.55 ml | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | pyridine | 4.5 ml | N1=CC=CC=C1 | C5H5N
product | 9-(4-pivalyloxy-3-pivalyloxymethylbut-1-yl)guanine | 0.22 g, 58% | C(C(C)(C)C)(=O)OCC(CCN1C=2N=C(NC(C2N=C1)=O)N)COC(C(C)(C)C)=O | C20H31N5O5
